US04638070
83 gr. (0.5M) of 2-methyl-thiochromane are treated with 43.2 ml of propionyl chloride (0.5M) in the presence of 73 gr. of AlCl3 (0.55M) in 750 ml of 1,2-dichloroethylene in the already described preceding examples. 64 gr. of 2-methyl-6-propionyl-thiochromane are obtained.

reactant | 2-methyl-thiochromane | 0.5M | CC1SC2=CC=CC=C2CC1 | C10H12S
reactant | propionyl chloride | 0.5M, 43.2 ml | C(CC)(=O)Cl | C3H5ClO
reactant | AlCl3 | 0.55M | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | 1,2-dichloroethylene | 750 ml | ClC=CCl | C2H2Cl2
product | 2-methyl-6-propionyl-thiochromane | Yield: 58% | CC1SC2=CC=C(C=C2CC1)C(CC)=O | C13H16OS
